US08138181B2
N-((cis)-3-fluoropiperidin-4-yl)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-amine
Preparation of N-(cis)-3-fluoropiperidin-4-yl)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-amine: (cis)-tert-Butyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ylamino)piperidine-1-carboxylate (0.050 g, 0.093 mmol) was dissolved in MeOH (1 mL) the solution was treated with 4 M hydrogen chloride in dioxane (0.583 ml, 2.33 mmol). The mixture was stirred at ambient temperature for 4 hours, then concentrated in vacuo. The residue was redissolved and re-concentrated from MeOH three times. This material was purified by silica gel chromatography, eluting with (6% NH4OH in MeOH)/ethyl acetate to provide the desired product (16 mg). 1H NMR (400 MHz, CDCl3) δ 9.89 (d, 1H), 8.14 (s, 1H), 8.05 (d, 1H), 7.77 (d, 1H), 7.38-7.29 (m, 1H), 7.08 (d, 1H), 7.02 (s, 1H), 6.85-6.74 (m, 2H), 6.30 (d, 1H), 4.89 (d, J=49 Hz, 1H), 4.26-4.19 (m, 2H), 3.87-3.78 (m, 2H), 3.79-3.69 (m, 1H), 3.54-3.42 (m, 1H), 3.48 (s, 3H), 3.27-3.18 (m, 1H), 3.04-2.87 (dd, 1H), 2.79 (t, 1H), 2.17-2.09 (m, 1H), 2.00-1.86 (brd, 1H), 1.81-1.67 (m, 1H), 1.30-1.22 (m, 1H).

reactant | 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-amine | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)N | C19H18N4O2
reactant | (cis)-tert-Butyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ylamino)piperidine-1-carboxylate | 0.093 mmol, 0.050 g | F[C@@H]1CN(CC[C@@H]1NC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OC(C)(C)C | C29H34FN5O4
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | dioxane | 2.33 mmol, 0.583 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | N-((cis)-3-fluoropiperidin-4-yl)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-amine | 16 mg | F[C@@H]1CNCC[C@@H]1NC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | C24H26FN5O2
